US07138395B2
Preparation of 6-allyl-piperidine-2-carboxylic acid methyl ester (39):
The crude 6-allyl-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester obtained from the previous step is dissolved in MeOH (500 mL) and treated with thionyl chloride (20 mL). The solution is stirred overnight and the solvent removed in vacuo. The crude residue is dissolved in EtOAc, washed with saturated NaHCO3, dried (MgSO4), and concentrated to yield 2.1 g of the desired product. The product is used in the next step without purification. 1H NMR (CDCl3) δ 5.82 (m, 1H), 5.22–5.10 (m, 2H), 3.75 (s, 3H), 3.37 (dd, J=11.1, 2.8 Hz, 1H), 2.60 (m, 1H), 2.21 (m, 2H), 2.10–1.10 (m, 6H).

reactant | 6-allyl-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | COC(=O)C1N(C(CCC1)CC=C)C(=O)OC(C)(C)C | C15H25NO4
reactant | thionyl chloride | 20 mL | S(=O)(Cl)Cl | Cl2OS
solvent | MeOH | 500 mL | CO | CH4O
product | 6-allyl-piperidine-2-carboxylic acid methyl ester | 2.1 g | COC(=O)C1NC(CCC1)CC=C | C10H17NO2
